### PR TITLE
[Merged by Bors] - feat: `Order.cof Ordinal = univ`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean [hunk 1]
```diff
@@ -741,6 +741,17 @@ theorem cof_univ : cof univ.{u, v} = Cardinal.univ.{u, v} := by
     ← not_bddAbove_iff_isCofinal]
   exact fun s hs ↦ mk_le_of_injective (enumOrdOrderIso s hs).injective
 
+@[simp]
+theorem _root_.Order.cof_ordinal : Order.cof Ordinal.{u} = Cardinal.univ.{u, u + 1} := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean:562]:
```suggestion
theorem _root_.Order.cof_ordinal : Order.cof Ordinal.{u} = .univ.{u, u + 1} := by
```
same below

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Ordinal.lean:562]: Dot notation can't be used simultaneously with explicit universes...

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
